US09315495B2
To a solution of 3-(thiophene-2-yl)propanol (500 mg, 3.52 mmol) and imidazole (288 mg, 4.22 mmol) in 9 mL anhydrous dichloromethane was added TBS-Cl (584 mg, 3.87 mmol). The resulting mixture was stirred at room temperature for 30 minutes and poured into 50 mL water. Organics were extracted with ether (2×40 mL), dried over magnesium sulfate, filtered and concentrated. The crude oil was subjected to chromatography on silica gel with gradient elution (1-2% ethyl acetate in hexanes) to give tert-butyldimethyl(3-(thiophen-2-yl)propoxy)silane (787 mg, 87%). Used without further characterization.

reactant | 3-(thiophene-2-yl)propanol | 3.52 mmol, 500 mg | S1C(=CC=C1)CCCO | C7H10OS
reactant | imidazole | 4.22 mmol, 288 mg | N1C=NC=C1 | C3H4N2
reactant | TBS-Cl | 3.87 mmol, 584 mg | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | water | 50 mL | O | H2O
solvent | dichloromethane | 9 mL | ClCCl | CH2Cl2
product | tert-butyldimethyl(3-(thiophen-2-yl)propoxy)silane | 787 mg, 87% | C(C)(C)(C)[Si](OCCCC=1SC=CC1)(C)C | C13H24OSSi
